US08912176B2
Preparation (6-methylpyridin-3-yl)acetic acid
To a stirred solution of methyl (6-methylpyridin-3-yl)acetate (60 mg, 0.36 mmol) in methanol (5 ml) was added NaOH (1.0 ml of a 2M aqueous solution, 2.0 mmol) and the resulting solution was heated at 65° C. for 2 hours. The solvent was then removed at reduced pressure and the resulting residue was dissolved in methanolic HCl (5 ml) and then reconcentrated to yield the title product (54 mg, quant. yield) that was used without further purification.

reactant | methyl (6-methylpyridin-3-yl)acetate | 0.36 mmol, 60 mg | CC1=CC=C(C=N1)CC(=O)OC | C9H11NO2
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (6-methylpyridin-3-yl)acetic acid | 54 mg, quant. yield | CC1=CC=C(C=N1)CC(=O)O | C8H9NO2
